US09193726B2
2-[({cis-5-[3-(Trifluoromethyl)phenyl]tetrahydrofuran-2-yl}methyl)amino]ethanol was prepared via reaction of cis-2-(bromomethyl)-5-[3-(trifluoromethyl)phenyl]tetrahydrofuran (see H. Ebel et al., PCT Int. Appl., 2010070032, Jun. 24, 2010) with 2-aminoethanol.

reactant | cis-2-(bromomethyl)-5-[3-(trifluoromethyl)phenyl]tetrahydrofuran | BrC[C@@H]1O[C@@H](CC1)C1=CC(=CC=C1)C(F)(F)F | C12H12BrF3O
reactant | 2-aminoethanol | NCCO | C2H7NO
product | 2-[({cis-5-[3-(Trifluoromethyl)phenyl]tetrahydrofuran-2-yl}methyl)amino]ethanol | FC(C=1C=C(C=CC1)[C@@H]1CC[C@@H](O1)CNCCO)(F)F | C14H18F3NO2
